US06071899
4-Fluorophenylhexyl(3,3-diethyl-4-methylthio-2-oxoazetidin-1-yl)acetate-Methyl (3,3-diethyl-4-methylthio-2-oxo-azetidin-1-yl)acetate (0.8 g, 3.2 mmol) was dissolved in benzene with 4-fluorophenylhexylalcohol (1.3 g, 6.5 mmol) and sodium methoxide (SOmg ,0.9 mmol) and the mixture refuxed for 2 h. The reaction mixture was evaporated and diluted with EtOAc, the solution washed with water, separated, dried (K2CO3) and flash chromatographed (hexane/ethyl acetate 9:1) to give 4-fluorophenylhexyl(3,3-diethyl-4-methylthio-2-oxoazetidin-1-yl)acetamide 0.17 g, 14% as an oil.

reactant | 4-Fluorophenylhexyl(3,3-diethyl-4-methylthio-2-oxoazetidin-1-yl)acetate Methyl (3,3-diethyl-4-methylthio-2-oxo-azetidin-1-yl)acetate | 3.2 mmol, 0.8 g | FC(CCCC(C(=O)[O-])N1C(C(C1SC)(CC)CC)=O)CCC1=CC=CC=C1.C(C)C1(C(N(C1SC)CC(=O)OC)=O)CC
reactant | 4-fluorophenylhexylalcohol | 6.5 mmol, 1.3 g | FC1=CC=C(C=C1)CCCCCCO | C12H17FO
reactant | sodium methoxide | 0.9 mmol | C[O-].[Na+]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-fluorophenylhexyl(3,3-diethyl-4-methylthio-2-oxoazetidin-1-yl)acetamide | 0.17 g, 14% | FC(CCCC(C(=O)N)N1C(C(C1SC)(CC)CC)=O)CCC1=CC=CC=C1 | C22H33FN2O2S
